US06759554B2
4-(N-(3,5-Dimethylphenyl)amino)butanol (FIG. 10, Entry 3)
Using the general procedure, 5-bromo-m-xylene (136 μL, 1.0 mmol) was coupled with 4-aminobutanol (138 μL, 1.5 mmol). Purification of the crude product by column chromatography on silica gel using hexane/ethyl acetate (2:1) as eluent afforded the desired product as a colorless oil (174 mg, 90% yield). Rf=0.4 (hexane/ethyl acetate=1:1).

reactant | 5-bromo-m-xylene | 1.0 mmol, 136 μL | BrC=1C=C(C=C(C1)C)C | C8H9Br
reactant | 4-aminobutanol | 1.5 mmol, 138 μL | NCCCCO | C4H11NO
product | 4-(N-(3,5-Dimethylphenyl)amino)butanol | 174 mg, 90% yield | CC=1C=C(C=C(C1)C)NCCCCO | C12H19NO
